US07268230B2
1-Prop-2-yn-1-ylpiperazine diTFA salt (704 mg, 2 mmol), (prepared as described for the starting material in Example 26), was dissolved in acetonitrile (5 ml). Potassium carbonate (1.38 g, 10 mmol) and 3-bromopropan-1-ol (180 μL, 2 mmol) were added and the mixture heated to 85° C. for 6.5 hours. The reaction mixture was cooled, filtered and concentrated to give an oil. This was triturated with diethyl ether to give a white solid, which was partitioned between dichloromethane and water. The organic phase was then dried (MgSO4) and concentrated to give 3-(4-prop-2-yn-1-ylpiperazin-1-yl)propan-1-ol (286 mg, 79%).

reactant | 1-Prop-2-yn-1-ylpiperazine diTFA salt | 2 mmol, 704 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.C(C#C)N1CCNCC1
reactant | Potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromopropan-1-ol | 2 mmol, 180 μL | BrCCCO | C3H7BrO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-(4-prop-2-yn-1-ylpiperazin-1-yl)propan-1-ol | 286 mg, 79% | C(C#C)N1CCN(CC1)CCCO | C10H18N2O
